US08557983B2
methyl 2-(2-cyano-3-fluorophenoxy)-4-fluorobenzoate
A mixture of methyl 4-fluoro-2-hydroxybenzoate (10.5 g), 2,6-difluorobenzonitrile (17.17 g) and Cs2CO3 (22.12 g) in dimethyl sulfoxide (150 mL) was heated at 90° C. for 2 hours. After cooling, the reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extracted with additional ethyl acetate three times. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The solid was triturated with 7:3 hexanes/ethyl acetate (300 mL). The filtrate was concentrated, and the residue was purified by flash chromatography on silica gel eluting from 15%-25% ethyl acetate in hexanes to give the title compound.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 10.5 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 2,6-difluorobenzonitrile | 17.17 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | Cs2CO3 | 22.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
product | methyl 2-(2-cyano-3-fluorophenoxy)-4-fluorobenzoate | C(#N)C1=C(OC2=C(C(=O)OC)C=CC(=C2)F)C=CC=C1F | C15H9F2NO3
